2178-08-07 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM
 OR SENT - At [**2178-8-6**] 05:27 PM\
   -laproscopic cholecystectomy, very inflamed gall bladder, pus in gall
   bladder which spilled in abdomen.  OR EBL 100cc +, never on pressors,
   IVF 1200cc
   -possible ETOH history per anesthesia, will start CIWA protocol
   -2L LR
   -heavily sedated, appeared to be having obstructive apnea, given 0.2mg
   Narcan and placed on Bipap.  ABGs were followed and patient was weaned
   to NC 2L in the AM.  Tolerating it well.
   -ABG/Mental status improved
   -in the evening, patient pulled out his foley, with no water in the
   balloon, but reported difficulty voiding (has a hx of BPH).  Surgical
   resident saw the patient and will order a urology consult
   -will need to call [**Hospital3 5540**] Hospital for culture data in the
   a.m. (main number [**Telephone/Fax (1) 8038**])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 12:00 AM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 97 (61 - 107) bpm
   BP: 122/67(80) {77/56(62) - 136/89(98)} mmHg
   RR: 24 (9 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,823 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,823 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                     10 mL
   Urine:
                                                                    680 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,589 mL
                                                                  1,813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General: Alert, oriented, no acute distress, slightly lethargic after
   ERCP but fully arousable and interactive
   HEENT: Sclera anicteric, slightly dry mucous membranes, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Awake, alert x3, follows commands, speech coherent.
   Labs / Radiology
   213 K/uL
   12.3 g/dL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228, Alk Phos /
   T Bili:133/6.2, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   Assessment and Plan:
   Mr. [**Known lastname **] is a 57 year old male with past medical history of
   hypertension, BPH, and hyperlipidemia who presents from [**Hospital Ward Name **] for
   further management of cholangitis.
   .
   #) Cholangitis: Status-post ERCP which revealed a stone and significant
   amount of pus. Stent was placed at that time.
   - Continue antibiotics with Unasyn
   - Plan currently is for surgical laproscopic removal of gallbladder
   later today (Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1964**]' team)
   - NPO
   - IVF as needed, though currently no longer tachycardic and BP stable
   - Follow up culture data here and at outside hospital.
   - Low dose dilaudid for pain control
   .
   #) Hypertension: Holding anti-hypertensives currently given cholangitis
   and potential development of hypotension related to infection.
   .
   #) Hyperlipidemia: Holding statin for now.
   .
   #)FEN:
   - IVF as needed to support BP or if becomes tachycardic, otherwise will
   keep on some maitenance fluids given NPO status
   - Replete electrolytes
   - NPO for now
   .
   #) Prophylaxis: Subutaneous heparin if okay with surgical team after
   surgery, otherwise pneumoboots.
   .
   #) Access: peripherals
   .
   #) Code:  Full (discussed with patient)
   .
   #) Communication: Patient
   .
   #) Disposition: ICU for now, pending clinical improvement
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2178-08-07 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM
 OR SENT - At [**2178-8-6**] 05:27 PM\
   -laproscopic cholecystectomy, very inflamed gall bladder, pus in gall
   bladder which spilled in abdomen.  OR EBL 100cc +, never on pressors,
   IVF 1200cc
   -possible ETOH history per anesthesia, will start CIWA protocol
   -2L LR
   -heavily sedated, appeared to be having obstructive apnea, given 0.2mg
   Narcan and placed on Bipap.  ABGs were followed and patient was weaned
   to NC 2L in the AM.  Tolerating it well.
   -ABG/Mental status improved
   -in the evening, patient pulled out his foley, with no water in the
   balloon, but reported difficulty voiding (has a hx of BPH).  Surgical
   resident saw the patient and will order a urology consult
   -will need to call [**Hospital3 5540**] Hospital for culture data in the
   a.m. (main number [**Telephone/Fax (1) 8038**])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 12:00 AM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 97 (61 - 107) bpm
   BP: 122/67(80) {77/56(62) - 136/89(98)} mmHg
   RR: 24 (9 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,823 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,823 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                     10 mL
   Urine:
                                                                    680 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,589 mL
                                                                  1,813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General: Alert, oriented, no acute distress, slightly lethargic after
   ERCP but fully arousable and interactive
   HEENT: Sclera anicteric, slightly dry mucous membranes, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Awake, alert x3, follows commands, speech coherent.
   Labs / Radiology
   213 K/uL
   12.3 g/dL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228, Alk Phos /
   T Bili:133/6.2, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 CHOLECYSTITIS, CALCULOUS
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-08-07 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM
 OR SENT - At [**2178-8-6**] 05:27 PM\
   -laproscopic cholecystectomy, very inflamed gall bladder, pus in gall
   bladder which spilled in abdomen.  OR EBL 100cc +, never on pressors,
   IVF 1200cc
   -possible ETOH history per anesthesia, will start CIWA protocol
   -2L LR
   -heavily sedated, appeared to be having obstructive apnea, given 0.2mg
   Narcan and placed on Bipap.  ABGs were followed and patient was weaned
   to NC 2L in the AM.  Tolerating it well with sats in mid 90s.
   -ABG/Mental status improved
   -in the evening, patient pulled out his foley, with no water in the
   balloon, but reported difficulty voiding (has a hx of BPH).  Bladder
   scan at 2AM showed 420cc.  Scan at 7AM showed 724cc.  Surgical resident
   saw the patient, attempted re-insertion of couday catheter with no
   success.  Urology was consulted.
   -will need to call [**Hospital3 5540**] Hospital for culture data in the
   a.m. (main number [**Telephone/Fax (1) 8038**])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 12:00 AM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 97 (61 - 107) bpm
   BP: 122/67(80) {77/56(62) - 136/89(98)} mmHg
   RR: 24 (9 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,823 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,823 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                     10 mL
   Urine:
                                                                    680 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,589 mL
                                                                  1,813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General: Alert, oriented, no acute distress, slightly lethargic after
   ERCP but fully arousable and interactive
   HEENT: Sclera anicteric, slightly dry mucous membranes, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Drain in place,
   draining serosanguenous fluid
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Awake, alert x3, follows commands, speech coherent.
   Labs / Radiology
   213 K/uL
   12.3 g/dL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228, Alk Phos /
   T Bili:133/6.2, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   AST 228, ALT 394. AP 133, T bili 6.2, dir bili 5.1
   No pending micro
   No imaging
   Assessment and Plan
   Assessment and Plan:
   Mr. [**Known lastname **] is a 57 year old male with past medical history of
   hypertension, BPH, and hyperlipidemia who presents from [**Hospital Ward Name **] for
   further management of cholangitis.
   .
   #) Cholangitis: Status-post ERCP which revealed a stone and significant
   amount of pus and cholecystectomy. Stent was placed at that time.
   - Continue antibiotics with Unasyn
   - IVF as needed, though currently no longer tachycardic and BP stable
   - Follow up culture data here and at outside hospital.
   - Low dose dilaudid for pain control
   - f/u amylase/lipase and LFTs
   .
   #) Traumatic foley: 700c PVR with difficulty with foley insertion.
   -f/u urology consult with attempt at foley again later today
   #) Sleep apnea: pt. has never received a sleep study; no CPAP use at
   home.  Still in hypercarbic respiratory failure with improving mental
   status currently.
   -recheck ABG
   -Consider sleep study on outpt. Basis
   - may require auto CPAP when transferred to floor
   .
   #) EtOH history: illicit more in depth history in terms of prior
   withdrawal symptoms -> consumes 3-5 beers per day, and has stopped
   drinking before without issue
   - continue with CIWA protocol
   .
   #) Hypertension: Holding anti-hypertensives currently given cholangitis
   and potential development of hypotension related to infection.
   Pressures stable.
   .
   #) Hyperlipidemia: Holding statin for now.
   .
   #)FEN:
   - IVF as needed to support BP or if becomes tachycardic, otherwise will
   keep on some maitenance fluids
   - f/u I+Os with bladder scans before foley placement
   - Replete electrolytes
   - Diet: Clear liquids
   .
   #) Prophylaxis: Subutaneous heparin if okay with surgical team after
   surgery, otherwise pneumoboots.
   .
   #) Access: peripherals
   .
   #) Code:  Full (discussed with patient)
   .
   #) Communication: Patient
   .
   #) Disposition: ICU for now, pending clinical improvement
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2178-08-07 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM
 OR SENT - At [**2178-8-6**] 05:27 PM\
   -laproscopic cholecystectomy, very inflamed gall bladder, pus in gall
   bladder which spilled in abdomen.  OR EBL 100cc +, never on pressors,
   IVF 1200cc
   -possible ETOH history per anesthesia, will start CIWA protocol
   -2L LR
   -heavily sedated, appeared to be having obstructive apnea, given 0.2mg
   Narcan and placed on Bipap.  ABGs were followed and patient was weaned
   to NC 2L in the AM.  Tolerating it well.
   -ABG/Mental status improved
   -in the evening, patient pulled out his foley, with no water in the
   balloon, but reported difficulty voiding (has a hx of BPH).  Surgical
   resident saw the patient and will order a urology consult
   -will need to call [**Hospital3 5540**] Hospital for culture data in the
   a.m. (main number [**Telephone/Fax (1) 8038**])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 12:00 AM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 97 (61 - 107) bpm
   BP: 122/67(80) {77/56(62) - 136/89(98)} mmHg
   RR: 24 (9 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,823 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,823 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                     10 mL
   Urine:
                                                                    680 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,589 mL
                                                                  1,813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General: Alert, oriented, no acute distress, slightly lethargic after
   ERCP but fully arousable and interactive
   HEENT: Sclera anicteric, slightly dry mucous membranes, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Drain in place,
   draining serosanguenous fluid
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Awake, alert x3, follows commands, speech coherent.
   Labs / Radiology
   213 K/uL
   12.3 g/dL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228, Alk Phos /
   T Bili:133/6.2, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   AST 228, ALT 394. AP 133, T bili 6.2, dir bili 5.1
   Assessment and Plan
   Assessment and Plan:
   Mr. [**Known lastname **] is a 57 year old male with past medical history of
   hypertension, BPH, and hyperlipidemia who presents from [**Hospital Ward Name **] for
   further management of cholangitis.
   .
   #) Cholangitis: Status-post ERCP which revealed a stone and significant
   amount of pus and cholecystectomy. Stent was placed at that time.
   - Continue antibiotics with Unasyn
   - IVF as needed, though currently no longer tachycardic and BP stable
   - Follow up culture data here and at outside hospital.
   - Low dose dilaudid for pain control
   - f/u amylase/lipase and LFTs
   .
   #) Traumatic foley: 700c PVR with difficulty with foley insertion.
   -f/u urology consult with attempt at foley again later today
   #) Sleep apnea: pt. has never received a sleep study; no CPAP use at
   home.  Still in hypercarbic respiratory failure with improving mental
   status currently.
   -recheck ABG
   -Consider sleep study on outpt. basis
   .
   #) EtOH history: illicit more in depth history in terms of prior
   withdrawal symptoms
   - continue with CIWA protocol
   .
   #) Hypertension: Holding anti-hypertensives currently given cholangitis
   and potential development of hypotension related to infection.
   Pressures stable.
   .
   #) Hyperlipidemia: Holding statin for now.
   .
   #)FEN:
   - IVF as needed to support BP or if becomes tachycardic, otherwise will
   keep on some maitenance fluids
   - f/u I+Os with bladder scans before foley placement
   - Replete electrolytes
   - Diet: Clear liquids
   .
   #) Prophylaxis: Subutaneous heparin if okay with surgical team after
   surgery, otherwise pneumoboots.
   .
   #) Access: peripherals
   .
   #) Code:  Full (discussed with patient)
   .
   #) Communication: Patient
   .
   #) Disposition: ICU for now, pending clinical improvement
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2178-08-07 10:02:00 Physician Attending Progress Note
Chief Complaint: cholangitis/cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo M, ? OSA, htn, bph ? etoh use presents with cholangitis s/p ercp
   with stent, cholecystitis s/p lap chole
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM with stent placement
 OR SENT - At [**2178-8-6**] 05:27 PM for lap chole, GB pus and pus in abd
   with drain placed
   extubated in pacu--> but very sedated on arrival to ICU
abg c/w
   hypercarbic resp failure (7.19/72/79), also with probable OSA though
   denies prior eval.  Bipap initiated with improvement  in MS [**First Name (Titles) 43**] [**Last Name (Titles) 8049**]
   this am, self-d/c'd foley and team unable to replace.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 08:03 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 91 (61 - 107) bpm
   BP: 106/71(80) {95/59(70) - 136/89(98)} mmHg
   RR: 26 (9 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,951 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,951 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    220 mL
   Urine:
                                                                    680 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   40 mL
   Balance:
                                                                  3,589 mL
                                                                  1,731 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : b/b)
   Abdominal: Soft, Bowel sounds present, Tender: no r/g
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm
   Neurologic: Attentive and appropriate
   Labs / Radiology
   12.3 g/dL
   213 K/uL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228 (down), Alk
   Phos / T Bili:133/6.2 (down) d bili bili 5, Amylase / Lipase:added
   on-->pending, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Imaging: no new cxr
   Microbiology: no pending data here, will cvall OSH to obtain cx results
   Assessment and Plan
   57 yo M, ? OSA, htn, bph chronic etoh use present with:
     * cholangitis s/p ercp with stent,
     * cholecystitis s/p lap chole.
     * Hypercarbic resp failure post-op in setting of anesthesia/sedation
   Agree with plan to complete course of antibx (unasyn) for
   cholangitis/cholecystitis, following up pending cx data (need to call
   OSH, no bl cx here). Bolus IVFs and follow urine outpt.  Difficult
   foley placement and known BPH with prior TURP.  Urology c/s to assist.
   Continue to monitor LFTs which are decreasing and check a /l given risk
   of post-ercp pancreatitis, can advance to clears per surgery.
   Hypercarbic resp failure post OR [**1-5**] over sedation.  Probable OSA.
   Tolerated BiPAP well overnight and MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] now. Would benefit
   from formal outpt sleep evaluation.  Would monitor resp status in
   setting of sedating meds.  Has chronic etoh hx but denies prior
   withdrawal.  Continue to montor for signs, on ciwa.   Continue
   co-management with surgical team.  ICU prophylaxis w/  H2B, sq hep,
   PIVs. Full code.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition: advance to clears
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to surgical service later this am
   Total time spent: 40 minutes

2178-08-07 10:02:00 Physician Attending Progress Note
Chief Complaint: cholangitis/cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo M, ? OSA, htn, bph ? etoh use presents with cholangitis s/p ercp
   with stent, cholecystitis s/p lap chole
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM with stent
 OR SENT - At [**2178-8-6**] 05:27 PM for lap chole, GB pus and pus in abd
   with drain placed
   extubated in pacu--> still very sedated with hypercarbic resp failure
   on abtg (7.19/72/79), h/o noncompliance with CPAp for OSA--> bipap
   initiated with imrpovement in MS [**First Name (Titles) 43**] [**Last Name (Titles) 8049**]
   self-d/c'd foley
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 08:03 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 91 (61 - 107) bpm
   BP: 106/71(80) {95/59(70) - 136/89(98)} mmHg
   RR: 26 (9 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,951 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,951 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    220 mL
   Urine:
                                                                    680 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   40 mL
   Balance:
                                                                  3,589 mL
                                                                  1,731 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : b/b)
   Abdominal: Soft, Bowel sounds present, Tender: no r/g
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   213 K/uL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228 (down), Alk
   Phos / T Bili:133/6.2 (down) d bili bili 5, Amylase / Lipase:added
   on-->pending, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Imaging: no new cxr
   Microbiology: no pending data here, will cvall OSH to obtain cx results
   Assessment and Plan
   A/P: cholangitis s/p ercp with stent, cholecystitis
   Agree with plan to treat cholangitis with antibx (unasyn) following cx
   data call (OSH), IVFs, lap chole planned for today per surgical team
   given sig pus noted at ERCP, surgical recs regarding post-op care--will
   monitor u/ (will leikly need urology paced foley cath), Trend LFTs,
   check a /l, advance to clears per surgery.  Hypercarbic resp failure
   post OR [**1-5**] sedation and presumed OSA. Tolerated BiPAP well voernight.
   Would beenfit from outpt sleep evaluation.  Continue co-management with
   surgical team.? Etoh hx
monitor for signs of ETOH withdrawal. ICU
   prophylaxis w/  H2B, sq hep, PIVs. Full code.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floo to surgical service
   Total time spent: 40 minutes

2178-08-07 10:02:00 Physician Attending Progress Note
Chief Complaint: cholangitis/cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mr. [**Known lastname **] is a 57 M with past medical history of hypertension, BPH, and
   hyperlipidemia who presents from [**Hospital Ward Name **] for further management of
   cholangitis.
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM with stent
 OR SENT - At [**2178-8-6**] 05:27 PM for lap chole, GB pus and pus in abd
   with drain placed
   extubated in pacu--> still very sedated with hypercarbic resp failure
   on abtg (7.19/72/79), h/o noncompliance with CPAp for OSA--> bipap
   initiated with imrpovement in MS [**First Name (Titles) 43**] [**Last Name (Titles) 8049**]
   self-d/c'd foley
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 08:03 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 91 (61 - 107) bpm
   BP: 106/71(80) {95/59(70) - 136/89(98)} mmHg
   RR: 26 (9 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,951 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,951 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    220 mL
   Urine:
                                                                    680 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   40 mL
   Balance:
                                                                  3,589 mL
                                                                  1,731 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : b/b)
   Abdominal: Soft, Bowel sounds present, Tender: no r/g
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   213 K/uL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228 (down), Alk
   Phos / T Bili:133/6.2 (down) d bili bili 5, Amylase / Lipase:added
   on-->pending, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Imaging: no new cxr
   Microbiology: no pending data here, will cvall OSH to obtain cx results
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floo to surgical service
   Total time spent: 40 minutes

2178-08-07 10:02:00 Physician Attending Progress Note
Chief Complaint: cholangitis/cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo M, ? OSA, htn, bph ? etoh use presents with cholangitis s/p ercp
   with stent, cholecystitis s/p lap chole
   24 Hour Events:
 ERCP - At [**2178-8-6**] 11:00 AM with stent placement
 OR SENT - At [**2178-8-6**] 05:27 PM for lap chole, GB pus and pus in abd
   with drain placed
   extubated in pacu--> but very sedated on arrival to ICU
abg c/w
   hypercarbic resp failure (7.19/72/79), also with probable OSA though
   denies prior eval.  Bipap initiated with improvement  in MS [**First Name (Titles) 43**] [**Last Name (Titles) 8049**]
   this am, self-d/c'd foley and team unable to replace.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-6**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-6**] 04:06 PM
   Naloxone (Narcan) - [**2178-8-6**] 10:45 PM
   Famotidine (Pepcid) - [**2178-8-7**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 08:03 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 91 (61 - 107) bpm
   BP: 106/71(80) {95/59(70) - 136/89(98)} mmHg
   RR: 26 (9 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,269 mL
                                                                  1,951 mL
   PO:
             TF:
   IVF:
                                                                  4,269 mL
                                                                  1,951 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    220 mL
   Urine:
                                                                    680 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   40 mL
   Balance:
                                                                  3,589 mL
                                                                  1,731 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 700 (500 - 700) mL
   Vt (Spontaneous): 1,581 (510 - 2,228) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.30/56/178/25/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : b/b)
   Abdominal: Soft, Bowel sounds present, Tender: no r/g
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm
   Neurologic: Attentive and appropriate
   Labs / Radiology
   12.3 g/dL
   213 K/uL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   38.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  01:02 PM
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
   WBC
   11.9
   9.0
   Hct
   42
   40.0
   38.1
   Plt
   241
   213
   Cr
   0.9
   0.9
   0.6
   TCO2
   29
   27
   29
   Glucose
   73
   105
   101
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:394/228 (down), Alk
   Phos / T Bili:133/6.2 (down) d bili bili 5, Amylase / Lipase:added
   on-->pending, Differential-Neuts:94.1 %, Lymph:3.0 %, Mono:2.6 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Imaging: no new cxr
   Microbiology: no pending data here, will cvall OSH to obtain cx results
   Assessment and Plan
   57 yo M, ? OSA, htn, bph chronic etoh use present with:
     * cholangitis s/p ercp with stent,
     * cholecystitis s/p lap chole.
     * Hypercarbic resp failure post-op in setting of anesthesia/sedation
   Agree with plan to complete course of antibx (unasyn) for
   cholangitis/cholecystitis, following up pending cx data (need to call
   OSH, no bl cx here). Bolus IVFs and follow urine outpt.  Difficult
   foley placement and known BPH with prior TURP.  Urology c/s to assist.
   Continue to monitor LFTs which are decreasing and check a /l given risk
   of post-ercp pancreatitis, can advance to clears per surgery.
   Hypercarbic resp failure post OR [**1-5**] over sedation.  Probable OSA.
   Tolerated BiPAP well overnight and MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] now. Would benefit
   from formal outpt sleep evaluation.  Would monitor resp status in
   setting of sedating meds.  Has chronic etoh hx but denies prior
   withdrawal.  Continue to montor for signs, on ciwa.   Continue
   co-management with surgical team.  ICU prophylaxis w/  H2B, sq hep,
   PIVs. Full code.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition: advance to clears
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-6**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to surgical service later this am
   Total time spent: 40 minutes
   ------ Protected Section ------
   Addendum
   Became febrile to 103, tachy to 110-115, not hypotensive.  Mild RUQ
   tenderness unchanged.
   Will keep in ICU given concer for early sepsis. Low threshold to
   broaden coverage to vanco/zosyn.  Has PIVs and urine outpt remains
   adeuqte at this time.  Reassess Hrs after temp controlled. IVFs, pan
   cx
s, abg with lactate and cxr orderd.  Surgery notified.
   Additonal crit care time spent: 20 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2178-8-7**] 17:39 ------

2178-08-08 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2178-8-7**] 05:00 PM
   - urology re-inserted foley today after balloon was found to be
   inflated in the prostate
   - [**Hospital3 5540**] Hospital was contact[**Name (NI) **] for culture data: No culture
   in their system at all!
   - pt was shivering in the PM,  BP was 110s-130s, tachycardic to
   120s-130s, fever to 103. blood and urine culture were sent. got CXR as
   well.
   - ABG showed PaO2 45, respiratory alkalosis, given tachycardia and
   respiratory status, got CTA --> neg for PE (prelim read)
   - consider auto-CPAP on the floor if continues to be on morphine for
   pain
   - need sleep study as outpatient
   - pt was going to be called out to the surgery floor on [**Hospital Ward Name 1107**]
   today, but given worsening clinical picture, kept him here for now
   - pt pulled foley out again at 1am, urology was called but didn't come
   then, bladder scan 300cc, came in the AM and put another Foley in.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-7**] 05:18 PM
   Vancomycin - [**2178-8-7**] 11:00 PM
   Piperacillin - [**2178-8-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-7**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 07:42 PM
   Famotidine (Pepcid) - [**2178-8-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-8**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37
C (98.6
   HR: 66 (66 - 110) bpm
   BP: 127/67(82) {97/58(70) - 140/96(107)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,483 mL
                                                                    678 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                  5,743 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    270 mL
   Urine:
                                                                  1,970 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     50 mL
   Balance:
                                                                  4,473 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.49/36/45/32/4
   PaO2 / FiO2: 90
   Physical Examination
   General: Alert, oriented, no acute distress, slightly lethargic after
   ERCP but fully arousable and interactive
   HEENT: Sclera anicteric, slightly dry mucous membranes, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Drain in place,
   draining serosanguenous fluid
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Awake, alert x3, follows commands, speech coherent.
   Labs / Radiology
   219 K/uL
   11.3 g/dL
   140 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   12 mg/dL
   98 mEq/L
   134 mEq/L
   33.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
                             [**2178-8-7**]  04:45 PM
                             [**2178-8-7**]  06:03 PM
                             [**2178-8-7**]  06:29 PM
                             [**2178-8-8**]  04:42 AM
   WBC
   11.9
   9.0
   8.4
   8.0
   Hct
   42
   40.0
   38.1
   36.5
   38
   33.7
   Plt
   241
   213
   237
   219
   Cr
   0.9
   0.6
   0.8
   0.7
   TCO2
   29
   27
   29
   28
   28
   Glucose
   105
   101
   137
   140
   Other labs: ALT / AST:261/110, Alk Phos / T Bili:149/6.2, Amylase /
   Lipase:21/17,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
                                                                [**2178-8-7**]
                                                                     6:29p
   _______________________________________________________________________
                                     pH
                                    7.49
                                    pCO2
                                     36
                                     pO2
                                     45
                                    HCO3
                                     28
                                   BaseXS
                                      4
   Lactate:0.9
   Hgb:12.5
   CalcHCT:38
                                                                [**2178-8-7**]
                                                                     6:03p
   _______________________________________________________________________
                                     pH
                                    7.49
                                    pCO2
                                     36
                                     pO2
                                     45
                                    HCO3
                                     28
                                   BaseXS
                                      4
   Lactate:1.0
                                                                [**2178-8-7**]
                                                                     4:45p
   _______________________________________________________________________
   Source: Line-aline
                                     137
                               [image004.gif]
                                     103
                               [image004.gif]
                                     15
   [image006.gif]
   137
                                                                   AGap=13
   [image007.gif]
   3.8
                               [image004.gif]
                                     25
                               [image004.gif]
                                     0.8
   [image009.gif]
   Ca: 7.6 Mg: 1.8 P: 1.0
   ALT: 329
   AP: 150
   Tbili: 5.7
   Alb: 3.0
   AST: 163
   LDH: 167
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   Source: Line-aline
   84
                                                                       8.4
                                                            [image009.gif]
                                    12.1
   [image006.gif]
   237
                 [image010.gif]
   [image006.gif]
                                    36.5
   [image009.gif]
   Source: [**Name (NI) 8043**]
   PT: 13.4
   PTT: 25.8
   INR: 1.1
                                                                [**2178-8-7**]
                                                                     4:05p
   Color
   Dkamb
   Appear
   Hazy
   SpecGr
   1.019
   pH
   6.5
   Urobil
   2
   Bili
   Mod
   Leuk
   Sm
   Bld
   Lg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   80
   RBC
   >1000
   WBC
   12
   Bact
   None
   Yeast
   None
   Epi
   0
   Color
   Brown
   Appear
   Cloudy
   SpecGr
   1.015
   pH
   6.0
   Urobil
   >8
   Bili
   Lg
   Leuk
   Lg
   Bld
   Lg
   Nitr
   Neg
   Prot
   >300
   Glu
   100
   Ket
   >80
   RBC
   >1000
   WBC
   450
   Bact
   None
   Yeast
   None
   Epi
   0
   Micro: urine and blood cx from [**8-7**] pending
   FINDINGS: Unclear tube like device projecting over the right
   hemidiaphragm.
   The lung volumes are low. The presence of small bilateral pleural
   effusions
   cannot be excluded. Bilateral areas of atelectasis, retrocardiac
   atelectasis.
   Moderate cardiomegaly, moderate tortuosity of the thoracic aorta. A [**2-4**]
   mm
   nodule is projecting over the fifth dorsal right rib. Although this
   nodule
   could correspond to a vascular structure, it should be clarified at the
   time
   point when the patient is able to perform a deep inspiratory maneuver.
   CXR: FINDINGS: Unclear tube like device projecting over the right
   hemidiaphragm.
   The lung volumes are low. The presence of small bilateral pleural
   effusions
   cannot be excluded. Bilateral areas of atelectasis, retrocardiac
   atelectasis.
   Moderate cardiomegaly, moderate tortuosity of the thoracic aorta. A [**2-4**]
   mm
   nodule is projecting over the fifth dorsal right rib. Although this
   nodule
   could correspond to a vascular structure, it should be clarified at the
   time
   point when the patient is able to perform a deep inspiratory maneuver.
   CTA chest: prelim read
   No PE seen. Small bilateral pleural effusions with bibasilar
   atelectasis.
   1.8 cm hypodensity in the liver, not completely evaluated on this
   study. could
   be a hepatic cyst or a small fluid collection. attention to this area
   should
   be made on follow up exam. biliary air and small amount of free
   abdominal air
   is consistent with recent ERCP and abdominal surgery.
   Assessment and Plan
   Mr. [**Known lastname **] is a 57 year old male with past medical history of
   hypertension, BPH, and hyperlipidemia who presents from [**Hospital Ward Name **] for
   further management of cholangitis.
   .
   #) Cholangitis: Status-post ERCP which revealed a stone and significant
   amount of pus and cholecystectomy. Stent was placed at that time.
   - Continue antibiotics with vanc/zosyn
   - Follow up cultures
   - Low dose dilaudid for pain control
   - f/u amylase/lipase and LFTs
   .
   #) Traumatic foley: 300c PVR with difficulty with foley insertion;
   inserted by urology
   - continue restraints
   #) Sleep apnea: pt. has never received a sleep study; no CPAP use at
   home.  Still in hypercarbic respiratory failure with improving mental
   status currently.
   - recheck ABG
   - Consider sleep study on outpt. basis
   - may require auto CPAP when transferred to floor
   .
   #) EtOH history: illicit more in depth history in terms of prior
   withdrawal symptoms -> consumes 3-5 beers per day, and has stopped
   drinking before without issue
   - continue with CIWA protocol
   .
   #) Hypertension: Monitor BP. Consider antihypertensives if BP remains
   elevated.
   .
   #) Hyperlipidemia: Holding statin for now till LFTs trend down.
   .
   #)FEN:
   - IVF as needed to support BP or if becomes tachycardic, otherwise will
   keep on some maintenance fluids
   - f/u I+Os with bladder scans before foley placement
   - Replete electrolytes
   - Diet: Clear liquids
   .
   #) Prophylaxis: Subutaneous heparin.
   #) Access: peripherals
   .
   #) Code:  Full (discussed with patient)
   .
   #) Communication: Patient
   .
   #) Disposition: ICU for now, pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-8**] 12:56 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2178-08-08 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2178-8-7**] 05:00 PM
   - urology re-inserted foley today after balloon was found to be
   inflated in the prostate
   - [**Hospital3 5540**] Hospital was contact[**Name (NI) **] for culture data: No culture
   in their system at all!
   - pt was shivering in the PM,  BP was 110s-130s, tachycardic to
   120s-130s, fever to 103. blood and urine culture were sent. got CXR as
   well.
   - antibiotic coverage was broadened to Vanc/Zosyn
   - ABG showed PaO2 45, respiratory alkalosis, given tachycardia and
   respiratory status, got CTA --> neg for PE (prelim read)
   - consider auto-CPAP on the floor if continues to be on morphine for
   pain
   - need sleep study as outpatient
   - pt was going to be called out to the surgery floor on [**Hospital Ward Name 1107**]
   today, but given worsening clinical picture, kept him here for now
   - pt pulled foley out again at 1am, urology was called but didn't come
   then, bladder scan 300cc, came in the AM and put another Foley in.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-7**] 05:18 PM
   Vancomycin - [**2178-8-7**] 11:00 PM
   Piperacillin - [**2178-8-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-7**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 07:42 PM
   Famotidine (Pepcid) - [**2178-8-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-8**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37
C (98.6
   HR: 66 (66 - 110) bpm
   BP: 127/67(82) {97/58(70) - 140/96(107)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,483 mL
                                                                    678 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                  5,743 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    270 mL
   Urine:
                                                                  1,970 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     50 mL
   Balance:
                                                                  4,473 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.49/36/45/32/4
   PaO2 / FiO2: 90
   Physical Examination
   General: drowsy but arousable, NAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Drain in place,
   draining serosanguenous fluid
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   219 K/uL
   11.3 g/dL
   140 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   12 mg/dL
   98 mEq/L
   134 mEq/L
   33.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
                             [**2178-8-7**]  04:45 PM
                             [**2178-8-7**]  06:03 PM
                             [**2178-8-7**]  06:29 PM
                             [**2178-8-8**]  04:42 AM
   WBC
   11.9
   9.0
   8.4
   8.0
   Hct
   42
   40.0
   38.1
   36.5
   38
   33.7
   Plt
   241
   213
   237
   219
   Cr
   0.9
   0.6
   0.8
   0.7
   TCO2
   29
   27
   29
   28
   28
   Glucose
   105
   101
   137
   140
   Other labs: ALT / AST:261/110, Alk Phos / T Bili:149/6.2, Amylase /
   Lipase:21/17,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
                                                                [**2178-8-7**]
                                                                     6:29p
   _______________________________________________________________________
                                     pH
                                    7.49
                                    pCO2
                                     36
                                     pO2
                                     45
                                    HCO3
                                     28
                                   BaseXS
                                      4
   Lactate:0.9
   Hgb:12.5
   CalcHCT:38
                                                                [**2178-8-7**]
                                                                     6:03p
   _______________________________________________________________________
                                     pH
                                    7.49
                                    pCO2
                                     36
                                     pO2
                                     45
                                    HCO3
                                     28
                                   BaseXS
                                      4
   Lactate:1.0
                                                                [**2178-8-7**]
                                                                     4:45p
   _______________________________________________________________________
   Source: Line-aline
                                     137
                               [image004.gif]
                                     103
                               [image004.gif]
                                     15
   [image006.gif]
   137
                                                                   AGap=13
   [image007.gif]
   3.8
                               [image004.gif]
                                     25
                               [image004.gif]
                                     0.8
   [image009.gif]
   Ca: 7.6 Mg: 1.8 P: 1.0
   ALT: 329
   AP: 150
   Tbili: 5.7
   Alb: 3.0
   AST: 163
   LDH: 167
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   Source: Line-aline
   84
                                                                       8.4
                                                            [image009.gif]
                                    12.1
   [image006.gif]
   237
                 [image010.gif]
   [image006.gif]
                                    36.5
   [image009.gif]
   Source: [**Name (NI) 8043**]
   PT: 13.4
   PTT: 25.8
   INR: 1.1
                                                                [**2178-8-7**]
                                                                     4:05p
   Color
   Dkamb
   Appear
   Hazy
   SpecGr
   1.019
   pH
   6.5
   Urobil
   2
   Bili
   Mod
   Leuk
   Sm
   Bld
   Lg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   80
   RBC
   >1000
   WBC
   12
   Bact
   None
   Yeast
   None
   Epi
   0
   Color
   Brown
   Appear
   Cloudy
   SpecGr
   1.015
   pH
   6.0
   Urobil
   >8
   Bili
   Lg
   Leuk
   Lg
   Bld
   Lg
   Nitr
   Neg
   Prot
   >300
   Glu
   100
   Ket
   >80
   RBC
   >1000
   WBC
   450
   Bact
   None
   Yeast
   None
   Epi
   0
   Micro: urine and blood cx from [**8-7**] pending
   FINDINGS: Unclear tube like device projecting over the right
   hemidiaphragm.
   The lung volumes are low. The presence of small bilateral pleural
   effusions
   cannot be excluded. Bilateral areas of atelectasis, retrocardiac
   atelectasis.
   Moderate cardiomegaly, moderate tortuosity of the thoracic aorta. A [**2-4**]
   mm
   nodule is projecting over the fifth dorsal right rib. Although this
   nodule
   could correspond to a vascular structure, it should be clarified at the
   time
   point when the patient is able to perform a deep inspiratory maneuver.
   CXR: FINDINGS: Unclear tube like device projecting over the right
   hemidiaphragm.
   The lung volumes are low. The presence of small bilateral pleural
   effusions
   cannot be excluded. Bilateral areas of atelectasis, retrocardiac
   atelectasis.
   Moderate cardiomegaly, moderate tortuosity of the thoracic aorta. A [**2-4**]
   mm
   nodule is projecting over the fifth dorsal right rib. Although this
   nodule
   could correspond to a vascular structure, it should be clarified at the
   time
   point when the patient is able to perform a deep inspiratory maneuver.
   CTA chest: prelim read
   No PE seen. Small bilateral pleural effusions with bibasilar
   atelectasis.
   1.8 cm hypodensity in the liver, not completely evaluated on this
   study. could
   be a hepatic cyst or a small fluid collection. attention to this area
   should
   be made on follow up exam. biliary air and small amount of free
   abdominal air
   is consistent with recent ERCP and abdominal surgery.
   Assessment and Plan
   Mr. [**Known lastname **] is a 57 year old male with past medical history of
   hypertension, BPH, and hyperlipidemia who presents from [**Hospital Ward Name **] for
   further management of cholangitis.
   .
   #) Cholangitis: Status-post ERCP which revealed a stone and significant
   amount of pus and cholecystectomy. Stent was placed at that time.
   - Continue borad coverage with vanc/zosyn for now
   - Follow up cultures on [**8-7**] and consider going back to Unasyn alone if
   no growth
   - unfortunately no old culture data here or from OSH
   - continue dilaudid for pain control
   - continue monitoring LFTs which are still elev, but trending down
   (except T bili is slightly up)
   #) Fever: diff incl post-surgical infection (exam nl), bacteremia, UTI
   (UA neg), PNA (CXR neg), gastroenteritis (no diarrhea)
   - f/u cultures
   - continue broad coverage with vanc/zosyn for now
   #) Traumatic foley: reinserted by Urology
   - continue restraints
   - monitor UOP
   #) Sleep apnea: pt. has never received a sleep study; no CPAP use at
   home.
   - Plan for sleep study on outpt. basis
   - Encourage  auto CPAP when in hospital (pt is refusing)
   .
   #) EtOH history: illicit more in depth history in terms of prior
   withdrawal symptoms -> consumes 3-5 beers per day, and has stopped
   drinking before without issue
   - continue with CIWA protocol
   .
   #) Hypertension: Monitor BP. No home meds. Consider antihypertensives
   if BP remains elevated.
   .
   #) Hyperlipidemia: Holding statin for now till LFTs trend down.
   .
   ICU Care
   Nutrition: clear liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-8**] 12:56 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: famotidine
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: transfer to surgery floor

2178-08-08 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2178-8-7**] 05:00 PM
   - urology re-inserted foley today after balloon was found to be
   inflated in the prostate
   - [**Hospital3 5540**] Hospital was contact[**Name (NI) **] for culture data: No culture
   in their system at all!
   - pt was shivering in the PM,  BP was 110s-130s, tachycardic to
   120s-130s, fever to 103. blood and urine culture were sent. got CXR as
   well.
   - ABG showed PaO2 45, respiratory alkalosis, given tachycardia and
   respiratory status, got CTA --> neg for PE (prelim read)
   - consider auto-CPAP on the floor if continues to be on morphine for
   pain
   - need sleep study as outpatient
   - pt was going to be called out to the surgery floor on [**Hospital Ward Name 1107**]
   today, but given worsening clinical picture, kept him here for now
   - pt pulled foley out again at 1am, urology was called but didn't come
   then, bladder scan 300cc, came in the AM and put another Foley in.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2178-8-7**] 05:18 PM
   Vancomycin - [**2178-8-7**] 11:00 PM
   Piperacillin - [**2178-8-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2178-8-7**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-7**] 07:42 PM
   Famotidine (Pepcid) - [**2178-8-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-8**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37
C (98.6
   HR: 66 (66 - 110) bpm
   BP: 127/67(82) {97/58(70) - 140/96(107)} mmHg
   RR: 19 (19 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,483 mL
                                                                    678 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                  5,743 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    270 mL
   Urine:
                                                                  1,970 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     50 mL
   Balance:
                                                                  4,473 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.49/36/45/32/4
   PaO2 / FiO2: 90
   Physical Examination
   General: Alert, oriented, no acute distress, slightly lethargic after
   ERCP but fully arousable and interactive
   HEENT: Sclera anicteric, slightly dry mucous membranes, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Drain in place,
   draining serosanguenous fluid
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Awake, alert x3, follows commands, speech coherent.
   Labs / Radiology
   219 K/uL
   11.3 g/dL
   140 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   12 mg/dL
   98 mEq/L
   134 mEq/L
   33.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-8-6**]  08:27 PM
                             [**2178-8-6**]  09:24 PM
                             [**2178-8-6**]  10:23 PM
                             [**2178-8-6**]  10:26 PM
                             [**2178-8-7**]  01:28 AM
                             [**2178-8-7**]  04:26 AM
                             [**2178-8-7**]  04:45 PM
                             [**2178-8-7**]  06:03 PM
                             [**2178-8-7**]  06:29 PM
                             [**2178-8-8**]  04:42 AM
   WBC
   11.9
   9.0
   8.4
   8.0
   Hct
   42
   40.0
   38.1
   36.5
   38
   33.7
   Plt
   241
   213
   237
   219
   Cr
   0.9
   0.6
   0.8
   0.7
   TCO2
   29
   27
   29
   28
   28
   Glucose
   105
   101
   137
   140
   Other labs: ALT / AST:261/110, Alk Phos / T Bili:149/6.2, Amylase /
   Lipase:21/17,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
                                                                [**2178-8-7**]
                                                                     6:29p
   _______________________________________________________________________
                                     pH
                                    7.49
                                    pCO2
                                     36
                                     pO2
                                     45
                                    HCO3
                                     28
                                   BaseXS
                                      4
   Lactate:0.9
   Hgb:12.5
   CalcHCT:38
                                                                [**2178-8-7**]
                                                                     6:03p
   _______________________________________________________________________
                                     pH
                                    7.49
                                    pCO2
                                     36
                                     pO2
                                     45
                                    HCO3
                                     28
                                   BaseXS
                                      4
   Lactate:1.0
                                                                [**2178-8-7**]
                                                                     4:45p
   _______________________________________________________________________
   Source: Line-aline
                                     137
                               [image004.gif]
                                     103
                               [image004.gif]
                                     15
   [image006.gif]
   137
                                                                   AGap=13
   [image007.gif]
   3.8
                               [image004.gif]
                                     25
                               [image004.gif]
                                     0.8
   [image009.gif]
   Ca: 7.6 Mg: 1.8 P: 1.0
   ALT: 329
   AP: 150
   Tbili: 5.7
   Alb: 3.0
   AST: 163
   LDH: 167
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   Source: Line-aline
   84
                                                                       8.4
                                                            [image009.gif]
                                    12.1
   [image006.gif]
   237
                 [image010.gif]
   [image006.gif]
                                    36.5
   [image009.gif]
   Source: [**Name (NI) 8043**]
   PT: 13.4
   PTT: 25.8
   INR: 1.1
                                                                [**2178-8-7**]
                                                                     4:05p
   Color
   Dkamb
   Appear
   Hazy
   SpecGr
   1.019
   pH
   6.5
   Urobil
   2
   Bili
   Mod
   Leuk
   Sm
   Bld
   Lg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   80
   RBC
   >1000
   WBC
   12
   Bact
   None
   Yeast
   None
   Epi
   0
   Color
   Brown
   Appear
   Cloudy
   SpecGr
   1.015
   pH
   6.0
   Urobil
   >8
   Bili
   Lg
   Leuk
   Lg
   Bld
   Lg
   Nitr
   Neg
   Prot
   >300
   Glu
   100
   Ket
   >80
   RBC
   >1000
   WBC
   450
   Bact
   None
   Yeast
   None
   Epi
   0
   Micro: urine and blood cx from [**8-7**] pending
   FINDINGS: Unclear tube like device projecting over the right
   hemidiaphragm.
   The lung volumes are low. The presence of small bilateral pleural
   effusions
   cannot be excluded. Bilateral areas of atelectasis, retrocardiac
   atelectasis.
   Moderate cardiomegaly, moderate tortuosity of the thoracic aorta. A [**2-4**]
   mm
   nodule is projecting over the fifth dorsal right rib. Although this
   nodule
   could correspond to a vascular structure, it should be clarified at the
   time
   point when the patient is able to perform a deep inspiratory maneuver.
   CXR: FINDINGS: Unclear tube like device projecting over the right
   hemidiaphragm.
   The lung volumes are low. The presence of small bilateral pleural
   effusions
   cannot be excluded. Bilateral areas of atelectasis, retrocardiac
   atelectasis.
   Moderate cardiomegaly, moderate tortuosity of the thoracic aorta. A [**2-4**]
   mm
   nodule is projecting over the fifth dorsal right rib. Although this
   nodule
   could correspond to a vascular structure, it should be clarified at the
   time
   point when the patient is able to perform a deep inspiratory maneuver.
   CTA chest: prelim read
   No PE seen. Small bilateral pleural effusions with bibasilar
   atelectasis.
   1.8 cm hypodensity in the liver, not completely evaluated on this
   study. could
   be a hepatic cyst or a small fluid collection. attention to this area
   should
   be made on follow up exam. biliary air and small amount of free
   abdominal air
   is consistent with recent ERCP and abdominal surgery.
   Assessment and Plan
   Mr. [**Known lastname **] is a 57 year old male with past medical history of
   hypertension, BPH, and hyperlipidemia who presents from [**Hospital Ward Name **] for
   further management of cholangitis.
   .
   #) Cholangitis: Status-post ERCP which revealed a stone and significant
   amount of pus and cholecystectomy. Stent was placed at that time.
   - Continue antibiotics with Unasyn
   - IVF as needed, though currently no longer tachycardic and BP stable
   - Follow up culture data here and at outside hospital.
   - Low dose dilaudid for pain control
   - f/u amylase/lipase and LFTs
   .
   #) Traumatic foley: 700c PVR with difficulty with foley insertion.
   -f/u urology consult with attempt at foley again later today
   #) Sleep apnea: pt. has never received a sleep study; no CPAP use at
   home.  Still in hypercarbic respiratory failure with improving mental
   status currently.
   -recheck ABG
   -Consider sleep study on outpt. Basis
   - may require auto CPAP when transferred to floor
   .
   #) EtOH history: illicit more in depth history in terms of prior
   withdrawal symptoms -> consumes 3-5 beers per day, and has stopped
   drinking before without issue
   - continue with CIWA protocol
   .
   #) Hypertension: Holding anti-hypertensives currently given cholangitis
   and potential development of hypotension related to infection.
   Pressures stable.
   .
   #) Hyperlipidemia: Holding statin for now.
   .
   #)FEN:
   - IVF as needed to support BP or if becomes tachycardic, otherwise will
   keep on some maitenance fluids
   - f/u I+Os with bladder scans before foley placement
   - Replete electrolytes
   - Diet: Clear liquids
   .
   #) Prophylaxis: Subutaneous heparin if okay with surgical team after
   surgery, otherwise pneumoboots.
   .
   #) Access: peripherals
   .
   #) Code:  Full (discussed with patient)
   .
   #) Communication: Patient
   .
   #) Disposition: ICU for now, pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-6**] 04:41 AM
   18 Gauge - [**2178-8-8**] 12:56 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU